US04374248
3-{2-[(2-Dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-4-hydroxy-1,2,5-thiadiazole 1,1-dioxide
When a solution of 3-{2-[(2-dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide [prepared according to the procedure described in Example 33, Step F] is reacted with sodium hydroxide according to the procedure described in Example 17, Step B, the title compound is produced.

reactant | 3-{2-[(2-dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC=1SC=C(N1)CSCCNC1=NS(N=C1OC)(=O)=O | C12H19N5O3S3
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-{2-[(2-Dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-4-hydroxy-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC=1SC=C(N1)CSCCNC1=NS(N=C1O)(=O)=O | C11H17N5O3S3
